US05350748
A mixture of methyl 3-amino-4-chlorobenzo[b]thiophene-2-carboxylate (1.7 g, 7.0 mmol) [Beck J. R., supra] and paraformaldehyde (2.0 g, 67 mmol) in 45 mL of acetic acid is treated in portions with sodium cyanoborohydride (2.0 g, 32 mmol). The mixture is stirred at room temperature for 24 hours, then diluted cautiously with 250 g of ice and water. Solid sodium carbonate is added until the mixture is slightly basic. After extraction with ethyl acetate, the combined organic layers are washed with brine, then dried (anhydrous sodium sulfate), and evaporated to provide methyl 4-chloro-3-(dimethylamino)benzo[b]thiophene-2-carboxylate as an oil.

reactant | methyl 3-amino-4-chlorobenzo[b]thiophene-2-carboxylate | 7.0 mmol, 1.7 g | NC=1C2=C(SC1C(=O)OC)C=CC=C2Cl | C10H8ClNO2S
reactant | paraformaldehyde | 67 mmol, 2.0 g | C=O | CH2O
reactant | sodium cyanoborohydride | 32 mmol, 2.0 g | C(#N)[BH3-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 45 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | methyl 4-chloro-3-(dimethylamino)benzo[b]thiophene-2-carboxylate | ClC1=CC=CC=2SC(=C(C21)N(C)C)C(=O)OC | C12H12ClNO2S
